US07396958B2
N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-N-(2-hydroxyethyl)-3,4-dimethoxybenzenesulfonamide
To 0.479 g of N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxy-N-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]benzenesulfonamide dissolved in 4.7 ml of THF are added 9.15 ml of acetic acid and 2.25 ml of water, and the mixture is maintained at 40° C. for 48 hours. The reaction medium is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a cyclohexane/ethyl acetate solvent mixture to give 0.209 g of the expected product.

reactant | N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxy-N-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]benzenesulfonamide | 0.479 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CCOC1OCCCC1)C(O)C1=C(C=CC=C1)Cl | C28H31Cl2NO7S
reactant | acetic acid | 9.15 ml | C(C)(=O)O | C2H4O2
reactant | water | 2.25 ml | O | H2O
solvent | THF | 4.7 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-N-(2-hydroxyethyl)-3,4-dimethoxybenzenesulfonamide | 0.209 g | ClC1=CC(=C(C=C1)N(S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CCO)C(O)C1=C(C=CC=C1)Cl | C23H23Cl2NO6S
